US07163937B2
(3R,4S)-Methyl 4-((3S)-3-(benzyloxycarbonylamino)-2-oxopyrrolidin-1-yl)piperidine-3-carboxylate (1.00 g, 2.66 mmol, 1 eq.), sodium triacetoxyborohydride (0.85 g, 4.00 mmol, 1.5 eq.) and acetone (0.59 mL, 7.99 mmol, 3 eq.) were mixed in methylene chloride (15 mL) and stirred for 20 hours at room temperature. Worked up by adding 20 mL of 1.000 N NaOH. Stirred 10 minutes then extracted 3 times with methylene chloride. The organic layers were combined, dried over sodium sulfate and stripped to give methyl 4-((3S)-3-(benzyloxycarbonylamino)-2-oxopyrrolidin-1-yl)-1-isopropyl-piperidine-3-carboxylate (1.10 g) of a white glass. Yield=99%. LCMS detects (M+H)+=418.41.

reactant | (3R,4S)-Methyl 4-((3S)-3-(benzyloxycarbonylamino)-2-oxopyrrolidin-1-yl)piperidine-3-carboxylate | 2.66 mmol, 1.00 g, 1 eq. | C(C1=CC=CC=C1)OC(=O)N[C@@H]1C(N(CC1)[C@@H]1[C@@H](CNCC1)C(=O)OC)=O | C19H25N3O5
reactant | sodium triacetoxyborohydride | 4.00 mmol, 0.85 g, 1.5 eq. | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | acetone | 7.99 mmol, 0.59 mL, 3 eq. | CC(=O)C | C3H6O
reactant | NaOH | 1.000 N, 20 mL | [OH-].[Na+]
solvent | methylene chloride | 15 mL | C(Cl)Cl | CH2Cl2
product | methyl 4-((3S)-3-(benzyloxycarbonylamino)-2-oxopyrrolidin-1-yl)-1-isopropyl-piperidine-3-carboxylate | 1.10 g, Yield=99% | C(C1=CC=CC=C1)OC(=O)N[C@@H]1C(N(CC1)C1C(CN(CC1)C(C)C)C(=O)OC)=O | C22H31N3O5
